US07687540B2
To a solution of ((R)-3-benzyloxycarbonylamino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid (1.0 g, 2.71 mmol) and carbonic acid chloromethyl ester ethyl ester (1.13 g, 8.16 mmol) in toluene (60 mL) was added silver carbonate (2.26 g, 8.16 mmol). The reaction mixture was heated at reflux for 3 h. The reaction mixture was then filtered and was concentrated in vacuo. Purification by gradient flash chromatography (methanol/methylene chloride) on a 35 g RediSep disposable column gave (3-benzyloxycarbonylamino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid ethoxycarbonyloxymethyl ester (300 mg, 0.63 mmol). 1H-NMR (CDCl3, 300 MHz): δ 7.35 (m, 5H), 5.65 (m, 2H), 5.45 (br s, 1H), 5.10 (s, 2H), 4.2 (m, 2H), 3.45 (dd, 1H), 3.20 (dd, 1H), 2.01-1.55 (m, 11H), 1.40-0.95 (m, 8H).

reactant | ((R)-3-benzyloxycarbonylamino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid | 2.71 mmol, 1.0 g | C(C1=CC=CC=C1)OC(=O)NC[C@H](CP(O)(=O)CC1CCCCC1)O | C18H28NO5P
reactant | carbonic acid chloromethyl ester ethyl ester | 8.16 mmol, 1.13 g | C(C)OC(OCCl)=O | C4H7ClO3
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | silver carbonate | 8.16 mmol, 2.26 g | C([O-])([O-])=O.[Ag+2]
product | (3-benzyloxycarbonylamino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid ethoxycarbonyloxymethyl ester | 0.63 mmol, 300 mg | C(C)OC(=O)OCOP(=O)(CC1CCCCC1)CC(CNC(=O)OCC1=CC=CC=C1)O | C22H34NO8P
